US06949648B2
2-(2-Oxobutyl)-4H-3,1-benzoxazin-4-one
To a solution in a mixture of benzene (100 mL)/acetone (100 mL) of the crude 5-(2-hydroxybutylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione which was previously prepared from Meldrum's acid (57.7 g, 0.40 mol) and propionyl chloride(37.0 g, 0.40 mol) according to the methods described in Synthesis, p. 1213 (1992) and Org. Synth., vol. 63, p. 198 (1985), anthranilic acid (45.8 g, 0.33 mol) was added and the mixture was heated under reflux for 3 hours. The solution was cooled to room temperature and concentrated under reduced pressure. The residue was suspended in a mixture of acetic anhydride (68.1 g, 0.667 mol) and tetrahydrofuran (150 mL), and the suspension was heated under reflux for 30 minutes. The solution was cooled to room temperature and concentrated under reduced pressure, and the residue thus obtained was purified by silica gel column chromatography (ethyl acetate:hexane=2:8) to give the title compound (28.4 g, 33% yield).

reactant | 5-(2-hydroxybutylidene)-2,2-dimethyl-1,3-dioxane-4,6-dione | OC(C=C1C(OC(OC1=O)(C)C)=O)CC | C10H14O5
reactant | Meldrum's acid | 0.40 mol, 57.7 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | propionyl chloride | 0.40 mol, 37.0 g | C(CC)(=O)Cl | C3H5ClO
reactant | anthranilic acid | 0.33 mol, 45.8 g | C(C=1C(N)=CC=CC1)(=O)O | C7H7NO2
reactant | acetic anhydride | 0.667 mol, 68.1 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | benzene | 100 mL | C1=CC=CC=C1 | C6H6
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | acetone | 100 mL | CC(=O)C | C3H6O
product | 2-(2-Oxobutyl)-4H-3,1-benzoxazin-4-one | 28.4 g, 33% yield | O=C(CC1=NC2=C(C(O1)=O)C=CC=C2)CC | C12H11NO3
